US06362177B1
A solution of 1-(4-chlorobenzyl)-4-(aminomethyl)piperidine (100 mg) in CHCl3 (3 mL) was treated with Et3N (0.090 mL), N-(tert-butoxycarbonyl)-D-phenylalanine (122 mg), EDCI (89 mg) and HOBt (62 mg). The reaction mixture was stirred at room temperature for 17 h. The reaction mixture was washed with 1 N aqueous NaOH solution (2 mL×2) and brine (2 mL). The organic layer was dried and concentrated to afford 1-(4-chlorobenzyl)-4-[{N-(tert-butoxycarbonyl)-D-phenylalanyl}aminomethyl]piperidine.

reactant | 1-(4-chlorobenzyl)-4-(aminomethyl)piperidine | 100 mg | ClC1=CC=C(CN2CCC(CC2)CN)C=C1 | C13H19ClN2
reactant | N-(tert-butoxycarbonyl)-D-phenylalanine | 122 mg | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | EDCI | 89 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 62 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Et3N | 0.090 mL | CCN(CC)CC | C6H15N
product | 1-(4-chlorobenzyl)-4-[{N-(tert-butoxycarbonyl)-D-phenylalanyl}aminomethyl]piperidine | ClC1=CC=C(CN2CCC(CC2)CNC([C@H](NC(=O)OC(C)(C)C)CC2=CC=CC=C2)=O)C=C1 | C27H36ClN3O3
